US08071592B2
(a) 6-(Methyloxy)-4-(2-propen-1-yl)-1,2,4-benzotriazin-3(4H)-one
To a solution of 6-chloro-4-(2-propen-1-yl)-1,2,4-benzotriazin-3(4H)-one 1-oxide (see Example 60(c) for a preparation) (420 mg, 1.77 mmol) in MeOH (10 ml) was added sodium methoxide solution (25% w/v, 8.84 mmol, 1.9 ml) and then the reaction was stirred at rt for 2 h. The reaction was then treated with water (100 ml) and extracted with DCM (2×100 ml). The combined organic phases were dried, evaporated and the crude residue purified by chromatography on silica gel using a 0-5% MeOH/DCM gradient, followed by trituration with diethyl ether (50 ml) to provide the desired compound as a yellow foam (205 mg, 53%).

reactant | 6-chloro-4-(2-propen-1-yl)-1,2,4-benzotriazin-3(4H)-one 1-oxide | ClC=1C=CC2=C(N(C(N=[N+]2[O-])=O)CC=C)C1 | C10H8ClN3O2
reactant | sodium methoxide | 8.84 mmol, 1.9 ml | C[O-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | MeOH | 10 ml | CO | CH4O
product | 6-(Methyloxy)-4-(2-propen-1-yl)-1,2,4-benzotriazin-3(4H)-one | 205 mg, 53% | COC=1C=CC2=C(N(C(N=N2)=O)CC=C)C1 | C11H11N3O2
